US06274608B1
(2S)-2-(2-Benzoylphenylamino)-3-(4-(1-(3.5,5.8,8-pentamethyl-5,6,7,8-tetrahydro-naphtalen-2-yl)-ethoxy)-phenyl)-propionic acid
To a solution of (2S)-2-(2-Benzoylphenylamino)-3-(4(1-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-naphtalen-2-yl)-ethoxy)-phenyl)-propionic acid methyl ester (100 mg; 0.17 mmol) in THF (12 ml) was added a solution of lithium hydroxide (16 mg; 0.37 mmol) in water (8 ml). The reaction mixture was stirred at room temperature for 4 hours and 1 N HCl was added to pH 6. The mixture was extracted with methylene chloride (2×50 ml). The combined organic phases were dried and evaporated. The product was crystallized as the L-lysine salt from methanol-hexanes. Yield 95 mg. Compound 4.

reactant | (2S)-2-(2-Benzoylphenylamino)-3-(4(1-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-naphtalen-2-yl)-ethoxy)-phenyl)-propionic acid methyl ester | 0.17 mmol, 100 mg | COC([C@H](CC1=CC=C(C=C1)OC(C)C1=CC=2C(CCC(C2C=C1C)(C)C)(C)C)NC1=C(C=CC=C1)C(C1=CC=CC=C1)=O)=O | C40H45NO4
reactant | lithium hydroxide | 0.37 mmol, 16 mg | [OH-].[Li+]
reactant | HCl | 1 N | Cl | ClH
solvent | THF | 12 ml | C1CCOC1 | C4H8O
solvent | water | 8 ml | O | H2O
product | (2S)-2-(2-Benzoylphenylamino)-3-(4-(1-(3.5,5.8,8-pentamethyl-5,6,7,8-tetrahydro-naphtalen-2-yl)-ethoxy)-phenyl)-propionic acid | C(C1=CC=CC=C1)(=O)C1=C(C=CC=C1)N[C@H](C(=O)O)CC1=CC=C(C=C1)OC(C)C1=CC=2C(CCC(C2C=C1C)(C)C)(C)C | C39H43NO4
